US06121433
1-(p-Toluenesulfonyl)-3-chloro-propanol (103a)
To 3-chloro-1-propanol (5.02 mL, 60 mmole) in CH3CN (200 mL) was added, p-toluenesufonyl chloride (17 g, 90 mmole) and pyridine (7.3 mL, 90 mmole). The reaction mixture was stirred at room temperature for 12 hours under an argon atmosphere. 200 mL of saturated NaHCO3 (aq) was added and the stirring was continued for 15 minutes. The mixture was extracted several times with CH2Cl2. The combine CH2Cl2 layers were dried over Na2SO4, the Na2SO4 was filtered and the filtrate was evaporated to give 12.35 g (83.8%) of the title compound: TLC (Rf: 0.5; 20% EtOAc/Hexane), 1H NMR (CDCl3) δ 2.1 (m, 2 H, CH2), 2.5 (s, 3 H, CH3), 3.6 (t, 2 H, CH2), 4.2 (t, 2 H, CH2), 7.6 (d & d, 4 H, Ar). 13C NMR (CDCl3): δ 21.4 (CH3), 31.5 (CH2), 40.2 (CH2), 66.7 (CH2), 127.8 (Ar), 129.8 (Ar), 132.5 (Ar), 144.9 (Ar).

reactant | 3-chloro-1-propanol | 60 mmole, 5.02 mL | ClCCCO | C3H7ClO
reactant | p-toluenesufonyl chloride | 90 mmole, 17 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | pyridine | 90 mmole, 7.3 mL | N1=CC=CC=C1 | C5H5N
reactant | NaHCO3 | 200 mL | C(=O)(O)[O-].[Na+]
solvent | CH3CN | 200 mL | CC#N | C2H3N
product | 1-(p-Toluenesulfonyl)-3-chloro-propanol | 12.35 g, 83.8% | C1(=CC=C(C=C1)S(=O)(=O)C(CCCl)O)C | C10H13ClO3S
